US08357706B2
To crude (R)-4-bromo-2,3-dihydro-1H-inden-1-amine HCl INT-36 (1.55 g, 6.2 mmol) in DCM (10 mL) at 0° C. was added TEA (1.38 g, 13.7 mmol) followed by Boc anhydride (1.49 g, 6.8 mmol) and the reaction mixture stirred at room temperature overnight. The reaction mixture was washed with brine, and the organic layers were dried over MgSO4 and filtered. The product was purified by chromatography (EA/hexanes) to afford (R)-tert-butyl 4-bromo-2,3-dihydro-1H-inden-1-ylcarbamate INT-38 (1.63 g, 84%) as an off-white solid. LCMS-ESI (m/z) calculated for C14H18BrNO2: 312.20; found 197.0 [M−NHBoc]+, tR=3.97 min. 1H NMR (400 MHz, CDCl3) δ 7.31 (d, J=7.9 Hz, 1H), 7.23-7.13 (m, 1H), 7.02 (t, J=7.7 Hz, 1H), 5.30-5.07 (m, 1H), 4.69 (d, J=7.5 Hz, 1H), 2.93 (ddd, J=16.5, 9.0, 3.4 Hz, 1H), 2.75 (dt, J=16.5, 8.2 Hz, 1H), 2.60-2.43 (m, 1H), 1.73 (dq, J=13.1, 8.4 Hz, 1H), 1.41 (s, 9H).

reactant | (R)-4-bromo-2,3-dihydro-1H-inden-1-amine HCl | Cl.BrC1=C2CC[C@H](C2=CC=C1)N
reactant | Boc anhydride | 6.8 mmol, 1.49 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (R)-tert-butyl 4-bromo-2,3-dihydro-1H-inden-1-ylcarbamate | BrC1=C2CC[C@H](C2=CC=C1)NC(OC(C)(C)C)=O | C14H18BrNO2
